US08377970B2
N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]nicotinamide dihydrochloride
Following the general procedure-1, N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]nicotinamide (82 mg) was prepared from intermediate 30 (120 mg, 0.5 mmol) and nicotinic acid (98 mg, 0.65 mmol) as a yellow solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (80 mg) as an yellow solid. M.P.: 164.6-169.5° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.19 (s, 1H), 9.36 (s, 1H), 8.95 (d, J 5.2, 1H), 8.88 (d, J 2.5, 1H), 8.75 (d, J 8, 1H), 8.36 (dd, J 2.5, 8.9, 1H), 7.92 (dd, J 5.3, 8, 1H), 7.77 (d, J 8.9, 1H), 5.83 (s, 1H), 2.71-2.61 (m, 1H), 1.91-1.81 (m, 1H), 0.95-0.82 (m, 4H), 0.70-0.55 (m, 4H). MS (m/z): 346.27 [M-2HCl]−.

reactant | N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]nicotinamide | 82 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=N1)NC(C1=CN=CC=C1)=O | C20H19N5O
reactant | nicotinic acid | 0.65 mmol, 98 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]nicotinamide dihydrochloride | 80 mg | Cl.Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=N1)NC(C1=CN=CC=C1)=O | InChI=1S/C20H19N5O.2ClH/c26-20(15-2-1-9-21-11-15)23-16-7-8-19(22-12-16)25-18(14-5-6-14)10-17(24-25)13-3-4-13;;/h1-2,7-14H,3-6H2,(H,23,26);2*1H
